US04775669
Under nitrogen and at 25° C., a solution of 4-(2-hydroxyethyl)-2-azetidinone (62 mg, 0.539 mmole) in 0.5 ml of anhydrous p-dioxane is treated with 2,3-dihydropyran (0.98 ml, 1.08 mmoles) and p-toluenesulfonic acid monohydrate (19 mg, 0.10 mmole). The resulting solution is stirred for a period of 60 minutes and then partitioned between 10 ml of 0.5M pH7 phosphate buffer and 10 ml of ethyl acetate. The aqueous phase is extracted a second time with ethyl acetate. The combined ethyl acetate solutions are washed with brine, dried over magnesium sulfate and filtered. The filtrate is evaporated unnder reduced pressure to give 216 mg of crude product. Purification by preparation thick-layer chromtography developing with ethyl acetate gives 80 mg of 1-(2-tetrahydropyranyl)-4-[2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone as an oil.

reactant | 4-(2-hydroxyethyl)-2-azetidinone | 0.539 mmole, 62 mg | OCCC1CC(N1)=O | C5H9NO2
reactant | 2,3-dihydropyran | 1.08 mmoles, 0.98 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.10 mmole, 19 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | p-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | 1-(2-tetrahydropyranyl)-4-[2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone | 80 mg | O1C(CCCC1)N1C(CC1CCOC1OCCCC1)=O | C15H25NO4
